US05475086
Asn:
N Lys: K Asp: D Glu: E

reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
product | Asn | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
